US09102621B2
Ethyl 2,5-difluoro-4-methylbenzoate
To a solution of 2,5-difluoro-4-methylbenzoic acid (5 g, 2.904 mmol) in ethanol (100 mL) was added concentrated sulfuric acid (1 mL). The reaction mixture was stirred at reflux for 18 hours. LCMS showed complete consumption of starting material, so the solvents were removed in vacuo and the resulting residue redissolved in EtOAc (50 mL), and washed with saturated aqueous sodium bicarbonate. The organic layer was separated, and the aqueous layer extracted with EtOAc (2×50 mL). The combined organics were dried over sodium sulfate and evaporated to yield the title compound as a pale yellow oil (5.502 g, 95%).

reactant | 2,5-difluoro-4-methylbenzoic acid | 2.904 mmol, 5 g | FC1=C(C(=O)O)C=C(C(=C1)C)F | C8H6F2O2
reactant | sulfuric acid | 1 mL | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 100 mL | C(C)O | C2H6O
product | Ethyl 2,5-difluoro-4-methylbenzoate | 5.502 g, 95% | FC1=C(C(=O)OCC)C=C(C(=C1)C)F | C10H10F2O2
